US05624950
135 cm3 of 1.6M n-butyllithium solution in hexane are added to 31.3 cm3 of anisole diluted in 400 cm3 of t-butyl methyl ether and 33 cm3 of tetramethylethylenediamine, while maintaining the temperature below 30° C. After one hour at 20° C., the reaction mixture is cooled to -72° C. and 24 g of (3aRS,6SR,7aSR)-2-benzyl-6-methyl-4-perhydroisoindolone dissolved in 200 cm3 of tetrahydrofuran are added at this temperature over thirty minutes. After stirring for thirty minutes, 200 cm3 of aqueous 26% ammonium chloride solution are poured in over thirty minutes and the reaction mixture is warmed to room temperature and decanted. The organic phase is washed with water (3 times 150 cm3) and then with saturated sodium chloride solution (150 cm3), dried over magnesium sulphate, filtered and concentrated under reduced pressure (2.7 kPa). The residue obtained is chromatographed on a column of silica gel (0.060-0.200 mm, diameter 6 cm, height 55 cm), eluting under a pressure of 0.7 bar with a mixture of ethyl acetate and cyclohexane [by volume: 30/70 (3 dm3) then 50/50 (2 dm3) and 100/0 (3 dm3)] and collecting 200 cm3 fractions. Fractions 9 to 26 are combined, concentrated to dryness under reduced pressure (2.7 kPa) and crystallized in isopropyl ether. 20.5 g of (3aRS,4RS,6SR,7aSR)-2-benzyl-4-(2methoxyphenyl)-6-methyl-4-perhydroisoindolol are obtained in the form of white crystals, m.p.=120° C.

reactant | n-butyllithium | 1.6M, 135 cm3 | C(CCC)[Li]
reactant | anisole | 31.3 cm3 | C1(=CC=CC=C1)OC | C7H8O
reactant | (3aRS,6SR,7aSR)-2-benzyl-6-methyl-4-perhydroisoindolone | 24 g | C(C1=CC=CC=C1)N1CC2CC(CC(C2C1)=O)C | C16H21NO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | hexane | CCCCCC | C6H14
solvent | t-butyl methyl ether | 400 cm3 | COC(C)(C)C | C5H12O
solvent | tetramethylethylenediamine | 33 cm3 | CN(CCN(C)C)C | C6H16N2
solvent | tetrahydrofuran | 200 cm3 | O1CCCC1 | C4H8O
product | (3aRS,4RS,6SR,7aSR)-2-benzyl-4-(2methoxyphenyl)-6-methyl-4-perhydroisoindolol | 20.5 g | C(C1=CC=CC=C1)N1CC2CC(CC(C2C1)(O)C1=C(C=CC=C1)OC)C | C23H29NO2
